US04950756
Preparation of 2-(2'-diethylaminoethenyl)-1-nitroanthraquinone
42.0 g (0.16 mol) of 2-methyl-1-nitroanthraquinone (0.16 mol) and 46.2 g (0.32 mol) of diethylaminodimethoxymethane (0.32 mol) in 150 g of diethylformamide are refluxed for 7 hours. After all the volatiles have been distilled off, the residue is slurried in water and filtered with suction, and the filter residue is dried under reduced pressure. This gives 49.6 g (90.0%) of 2-(2'-diethylaminoethenyl)-1-nitroanthraquinone; melting point: 235°-241° C. (with decomposition).

reactant | 2-methyl-1-nitroanthraquinone | 0.16 mol, 42.0 g | CC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)[N+](=O)[O-] | C15H9NO4
reactant | diethylaminodimethoxymethane | 0.32 mol, 46.2 g | C(C)N(CC)C(OC)OC | C7H17NO2
solvent | diethylformamide | 150 g | C(C)N(C=O)CC | C5H11NO
product | 2-(2'-diethylaminoethenyl)-1-nitroanthraquinone | C(C)N(C=CC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)[N+](=O)[O-])CC | C20H18N2O4
